US09388188B2
To the rapidly stirred 80° C. suspension of methanesulfonyl chloride (0.88 g, 7.72 mmol) and sodium bicarbonate (3.24 g, 38.6 mmol) in acetonitrile (400 mL), 3-amino-4-(2,4,5-trifluorophenyl)butanoic acid ((±)-Ia, 1.5 g, 6.43 mmol) is added over period of 2 h. The resulting suspension was further stirred for 16 h at 80° C., after which time the fine suspension was cooled to 0° C. and filtered. The filtrate was evaporated under reduced pressure to afford 1.34 g (96% yield) of racemic 4-(2,4,5-trifluorobenzyl)azetidin-2-one ((±)-IIa) as pale yellow crystalline solid.

reactant | methanesulfonyl chloride | 7.72 mmol, 0.88 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | 38.6 mmol, 3.24 g | C([O-])(O)=O.[Na+]
reactant | 3-amino-4-(2,4,5-trifluorophenyl)butanoic acid | 6.43 mmol, 1.5 g | NC(CC(=O)O)CC1=C(C=C(C(=C1)F)F)F | C10H10F3NO2
solvent | acetonitrile | 400 mL | C(C)#N | C2H3N
product | racemic 4-(2,4,5-trifluorobenzyl)azetidin-2-one | 1.34 g, 96% yield | FC1=C(CC2CC(N2)=O)C=C(C(=C1)F)F | C10H8F3NO
